US04440927
Methyl 3-O-benzyl-4-O-tosyl-2-deoxy-α-D-ribo-hexopyranoside (6.55 g, 15.50 mmoldry DMSO (50 ml). Sodium borohydride (2.35 g; 62.01 mmoles) is added and the reaction is stirred under nitrogen in a bath maintained at 80° C. for four days. The reaction is cooled to room temperature and diluted with ether and extracted with water. The aqueous extract is then extracted four times with ether. The combined ether extracts are dried (MgSO4), filtered, and the solvent evaporated in vacuo to give crude product. This crude product is purified by flash chromatography on a 60 mm×150 mm column eluting with 15% (by volume) acetone in methylene chloride. A small portion (0.9 g) containing an impurity is rechromatographed on a 30 mm×130 mm column with the same eluant to give a combined total of 3.18 g of methyl 3-O-benzyl-2,4-dideoxy-α-D-erythro-hexopyranoside as a gum, [α]D25 +58.56 (c, 0.7, CHCl3)

reactant | Methyl 3-O-benzyl-4-O-tosyl-2-deoxy-α-D-ribo-hexopyranoside | C(C1=CC=CC=C1)O[C@H]1C[C@@H](OC)O[C@@H]([C@H]1OS(=O)(=O)C1=CC=C(C)C=C1)CO | C21H26O7S
reactant | DMSO | 50 ml | CS(=O)C | C2H6OS
reactant | Sodium borohydride | 62.01 mmoles, 2.35 g | [BH4-].[Na+]
solvent | ether | CCOCC | C4H10O
product | methyl 3-O-benzyl-2,4-dideoxy-α-D-erythro-hexopyranoside | 3.18 g | C(C1=CC=CC=C1)O[C@H]1C[C@@H](OC)O[C@@H](C1)CO | C14H20O4
